US07781452B2
(1b) 2-Methoxy-3-methyl-5-nitropyridine
Concentrated sulfuric acid (5 ml) and fuming nitric acid (5 ml) were added to 2-methoxy-3-methylpyridine (1.61 g, 13.1 mmol) under ice cooling, and stirred at 0° C. for 1 hour and further stirred at room temperature overnight. The reaction mixture was poured onto ice, neutralized with ammonia solution, extracted with ethyl acetate, dried over magnesium sulfate, the solvent was evaporated, thereby yielding the title compound (1.63 g, 9.71 mmol, and 74%).

reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-methoxy-3-methylpyridine | 13.1 mmol, 1.61 g | COC1=NC=CC=C1C | C7H9NO
reactant | ammonia | N | H3N
product | 2-Methoxy-3-methyl-5-nitropyridine | 9.71 mmol, 1.63 g, 74% | COC1=NC=C(C=C1C)[N+](=O)[O-] | C7H8N2O3
